US05807905
6.25 ml (0.01 mol) of 1.6M butyllithium in hexane are added over 5 minutes at -78° C. to a suspension of 3.14 g (0.01 mol) of 1,3,5-tribromobenzene in 50 ml of diethyl ether. The reaction mixture is stirred at -78° C. for 2 hours, during which a yellow-orange suspension is produced. 2.68 g (0.01 mol) of solid dimesitylfluoroborane are added, and the reaction mixure is warmed to room temperature over about one hour. The mixture is then diluted with 50 ml of hexane and cooled to 0° C. The solid produced is filtered, washed several times with cold hexane and then washed with water and, finally, with methanol, until the solid is colourless. Drying gives 3.54 g (0.0073 mol; i.e. 73% of theory) of a white solid (1,3-dibromo-5-dimesitylborylbenzene). Following purification by chromatography (hexane; SiO2) a melting point of 190°-191° C. is obtained.

reactant | butyllithium | 0.01 mol, 1.6M, 6.25 ml | C(CCC)[Li]
reactant | 1,3,5-tribromobenzene | 0.01 mol, 3.14 g | BrC1=CC(=CC(=C1)Br)Br | C6H3Br3
reactant | dimesitylfluoroborane | C1(=C(C(=CC(=C1)C)C)B(F)C1=C(C=C(C=C1C)C)C)C | C18H22BF
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | hexane | 50 ml | CCCCCC | C6H14
product | 1,3-dibromo-5-dimesitylborylbenzene | BrC1=CC(=CC(=C1)B(C1=C(C=C(C=C1C)C)C)C1=C(C=C(C=C1C)C)C)Br | C24H25BBr2
